US07053238B2
Example for Production of CF3COCOF by Liquid Phase Pyrolysis
The formed product obtained in Example 2-2 (42.0 g) was charged into a 200 cc autoclave together with KF powder (0.5 g) and CF3CFHOCF2CF(CF3)OCF2CF2CF3 and heated in a sealed state at from 80 to 120° C. for 13 hours and 120° C. for 14 hours in an oil bath, while vigorously stirring. At the outlet of the autoclave, a pressure resistant container cooled to −78° C. was installed, and when the internal pressure of the reactor became at least 0.28 MPa, the gas in the reactor was liquefied and recovered. 0.8 g of a sample was recovered. The recovered sample was gaseous at room temperature, and as a result of the analysis by GC-MS, the above-identified compound was confirmed to be the main product. The yield of the above-identified compound was 9.4%.

reactant | KF | 0.5 g | [F-].[K+]
reactant | CF3CFHOCF2CF(CF3)OCF2CF2CF3 | C(F)(F)(F)C(F)OC(F)(F)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(F)(F)F | C8HF17O2
product | CF3COCOF | C(F)(F)(F)C(=O)C(=O)F | C3F4O2
